US07632857B2
(2-(S)-Pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-(4′-trifluoromethyl-biphenyl-4-yl)-methanone
Procedure B′: 4′-Trifluoromethyl-biphenyl-4-carboxylic acid (2.7 g, 10.1 mmol) is suspended in dichloromethane (100 mL) and DMF (100 mL). EDC (2.33 g, 12.2 mmol) and HOBt (1.64 g, 12.2 mmol) were added at room temperature in that order. DIEA (4.4 mL, 25.3 mmol) and (S)(+)-1-(2-pyrrolidinylmethyl)pyrrolidine (1.56 g, 10.1 mmol) are added to the mixture. The mixture is stirred at room temperature for overnight. Water and ethyl acetate are added to the mixture. The aqueous layer is extracted with dichlormethane (2×), followed by ethyl acetate (2×). The combined organic layers are washed with brine (3×), dried over Na2SO4 and evaporated. The crude product is purified by silica-gel column chromatography (gradient: 100% CH2Cl2 to 10% 2M NH3 in MeOH/CH2Cl2) give the product. MS (ES+) 403.2

reactant | 4′-Trifluoromethyl-biphenyl-4-carboxylic acid | 10.1 mmol, 2.7 g | FC(C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O)(F)F | C14H9F3O2
reactant | EDC | 12.2 mmol, 2.33 g
reactant | HOBt | 12.2 mmol, 1.64 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 25.3 mmol, 4.4 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (S)(+)-1-(2-pyrrolidinylmethyl)pyrrolidine | 10.1 mmol, 1.56 g | N1[C@@H](CCC1)CN1CCCC1 | C9H18N2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | (2-(S)-Pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-(4′-trifluoromethyl-biphenyl-4-yl)-methanone | N1(CCCC1)C[C@H]1N(CCC1)C(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F | C23H25F3N2O
